US04508658
Cyanoacetic acid pentachlorophenyl ester
8.5 g (0.1 mole) of cyano acetic acid are dissolved in 350 ml. of ethylether and cooled to 0° C. 20.1 g. (0.1 mole) of phosphorus pentachloride are added. The cooling is stopped and the temperature is slowly raised to room temperature. When the HCl evolution ceases the solvent is distilled off in vacuo. The residue containing the formed cyanoacetic acid chloride and phosphoroxychloride is taken up in 50 ml. of dichloromethane and 26 g. (0.1 mole) of pentachlorophenol and 11 ml. (0.1 mole) of N,N'-dimethylaniline are added dropwise in 300 ml. of dichloromethane.

reactant | cyano acetic acid | 0.1 mole, 8.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | phosphorus pentachloride | 0.1 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | pentachlorophenol | 0.1 mole | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethylether | C(C)OCC | C4H10O
product | Cyanoacetic acid pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(CC#N)=O)Cl)Cl)Cl)Cl | C9H2Cl5NO2
